* UCC21550 Isolated Dual-Channel Gate Driver SPICE Model
* Texas Instruments
* Behavioral model for circuit simulation
* Model version: 1.0
* Date: 2024
*
* This model represents the UCC21550 isolated gate driver IC
* Suitable for ngspice and KiCad simulation
*
* Pin Configuration (16-pin DW package):
* 1:  INA    - Input A
* 2:  INB    - Input B
* 3:  VCCI   - Primary side supply (3.0-5.5V)
* 4:  GND    - Primary side ground
* 5:  DIS    - Disable input (active high)
* 6:  DT     - Dead time programming
* 7:  NC     - No connection
* 8:  VCCI   - Primary side supply (tied to pin 3)
* 9:  VSSB   - Channel B ground reference
* 10: OUTB   - Channel B output
* 11: VDDB   - Channel B supply (6.5-25V for A variant)
* 12: NC     - No connection
* 13: NC     - No connection
* 14: VSSA   - Channel A ground reference
* 15: OUTA   - Channel A output
* 16: VDDA   - Channel A supply (6.5-25V for A variant)

***************************************************************************
* Main Subcircuit: UCC21550A (5V UVLO variant)
***************************************************************************
.subckt UCC21550A INA INB VCCI GND DIS DT NC1 VCCI2 VSSB OUTB VDDB NC2 NC3 VSSA OUTA VDDA
* Internal nodes
X_CHA INA VCCI GND DIS DT OUTA VDDA VSSA UCC21550_CHANNEL
X_CHB INB VCCI GND DIS DT OUTB VDDB VSSB UCC21550_CHANNEL
.ends UCC21550A

***************************************************************************
* Channel Subcircuit - Single gate driver channel
***************************************************************************
.subckt UCC21550_CHANNEL IN VCC_PRI GND_PRI DIS DT OUT VDD VSS

* Input stage with pull-down
R_IN_PD IN GND_PRI 90k

* Disable stage with pull-up
R_DIS_PU DIS VCC_PRI 90k

* Input threshold detection (TTL/CMOS compatible)
* High threshold: 2.0V typ, Low threshold: 1.0V typ
B_IN_DETECT N_IN_DETECT GND_PRI V=IF(V(IN,GND_PRI)>2.0,V(VCC_PRI),0)
R_IN_DETECT N_IN_DETECT GND_PRI 1MEG

* Disable logic (active high)
B_DIS_DETECT N_DIS_DETECT GND_PRI V=IF(V(DIS,GND_PRI)>2.0,V(VCC_PRI),0)
R_DIS_DETECT N_DIS_DETECT GND_PRI 1MEG

* Combined input logic with disable
B_INPUT_LOGIC N_INPUT GND_PRI V=IF((V(N_IN_DETECT)>1) & (V(N_DIS_DETECT)<1) & (V(VCC_PRI)>2.7) & (V(VDD,VSS)>6.5),V(VCC_PRI),0)
R_INPUT_LOGIC N_INPUT GND_PRI 1MEG

* VCCI UVLO detector (2.7V rising, 2.5V falling with hysteresis)
B_UVLO_VCC N_UVLO_VCC GND_PRI V=IF(V(VCC_PRI)>2.7,V(VCC_PRI),IF(V(VCC_PRI)<2.5,0,V(N_UVLO_VCC)))
C_UVLO_VCC N_UVLO_VCC GND_PRI 100n
R_UVLO_VCC N_UVLO_VCC GND_PRI 10MEG

* VDD UVLO detector (6.0V rising for A variant, 5.7V falling with hysteresis)
B_UVLO_VDD N_UVLO_VDD VSS V=IF(V(VDD,VSS)>6.0,V(VDD,VSS),IF(V(VDD,VSS)<5.7,0,V(N_UVLO_VDD)))
C_UVLO_VDD N_UVLO_VDD VSS 100n
R_UVLO_VDD N_UVLO_VDD VSS 10MEG

* Propagation delay element (33ns typical)
* Rising edge delay
A_DELAY_RISE [N_INPUT] N_DELAYED_RISE BUF
+ td=33n tripdt=1n
* Falling edge delay
A_DELAY_FALL [N_INPUT] N_DELAYED_FALL BUF
+ td=33n tripdt=1n

* Combine delayed edges
B_DELAYED N_DELAYED GND_PRI V=IF(V(N_INPUT)>1,V(N_DELAYED_RISE),V(N_DELAYED_FALL))
R_DELAYED N_DELAYED GND_PRI 1MEG

* Output driver stage
* 4A source capability (ROH ~ 5 ohms)
* 6A sink capability (ROL ~ 0.55 ohms)
* Modeled as voltage-controlled switch with series resistance

* High-side driver (source)
S_HIGH VDD N_OUT_HIGH N_DELAYED GND_PRI SWHIGH
R_HIGH N_OUT_HIGH OUT 5

* Low-side driver (sink)
S_LOW OUT N_OUT_LOW N_DELAYED GND_PRI SWLOW
R_LOW N_OUT_LOW VSS 0.55

* Active pulldown when unpowered
R_APD OUT VSS 10k

* Gate of output when disabled/UVLO
B_GATE_CTRL N_GATE_CTRL VSS V=IF((V(N_UVLO_VCC)>1) & (V(N_UVLO_VDD)>1) & (V(N_DIS_DETECT)<1),V(N_DELAYED),0)
R_GATE_CTRL N_GATE_CTRL VSS 1MEG

* Switch models
.model SWHIGH VSWITCH (RON=0.1 ROFF=100MEG VON=2.5 VOFF=0.5)
.model SWLOW VSWITCH (RON=0.1 ROFF=100MEG VON=0.5 VOFF=2.5)

* Output capacitance
C_OUT OUT VSS 10p

.ends UCC21550_CHANNEL

***************************************************************************
* UCC21550B Subcircuit (8V UVLO variant)
***************************************************************************
.subckt UCC21550B INA INB VCCI GND DIS DT NC1 VCCI2 VSSB OUTB VDDB NC2 NC3 VSSA OUTA VDDA
* Uses same channel subcircuit with different UVLO thresholds
* In practice, would need separate channel model with 9.2V/7.9V UVLO
X_CHA INA VCCI GND DIS DT OUTA VDDA VSSA UCC21550_CHANNEL
X_CHB INB VCCI GND DIS DT OUTB VDDB VSSB UCC21550_CHANNEL
.ends UCC21550B

***************************************************************************
* UCC21550C Subcircuit (12V UVLO variant)
***************************************************************************
.subckt UCC21550C INA INB VCCI GND DIS DT NC1 VCCI2 VSSB OUTB VDDB NC2 NC3 VSSA OUTA VDDA
* Uses same channel subcircuit with different UVLO thresholds
* In practice, would need separate channel model with 13.5V/11.5V UVLO
X_CHA INA VCCI GND DIS DT OUTA VDDA VSSA UCC21550_CHANNEL
X_CHB INB VCCI GND DIS DT OUTB VDDB VSSB UCC21550_CHANNEL
.ends UCC21550C

***************************************************************************
* End of UCC21550 SPICE Model
***************************************************************************
