* UCC21550 Isolated Dual-Channel Gate Driver SPICE Model
* Texas Instruments
* Behavioral model for circuit simulation
* Model version: 1.3 (Fixed singular matrix with series resistors)
* Date: 2024
*
* This model represents the UCC21550 isolated gate driver IC
* Suitable for ngspice and KiCad simulation

***************************************************************************
* Main Subcircuit: UCC21550A (5V UVLO variant)
***************************************************************************
.subckt UCC21550A INA INB VCCI GND DIS DT NC1 VCCI2 VSSB OUTB VDDB NC2 NC3 VSSA OUTA VDDA
X_CHA INA VCCI GND DIS DT OUTA VDDA VSSA UCC21550_CHANNEL
X_CHB INB VCCI GND DIS DT OUTB VDDB VSSB UCC21550_CHANNEL
.ends UCC21550A

***************************************************************************
* Channel Subcircuit - Single gate driver channel
***************************************************************************
.subckt UCC21550_CHANNEL IN VCC_PRI GND_PRI DIS DT OUT VDD VSS

* Input stage with pull-down
R_IN_PD IN GND_PRI 90k

* Disable stage with pull-up
R_DIS_PU DIS VCC_PRI 90k

* Input threshold detection (TTL/CMOS compatible)
B_IN_DETECT N_IN_DETECT GND_PRI V={V(IN,GND_PRI) > 2.0 ? V(VCC_PRI,GND_PRI) : 0}
R_IN_DETECT N_IN_DETECT GND_PRI 1MEG

* Disable logic (active high)
B_DIS_DETECT N_DIS_DETECT GND_PRI V={V(DIS,GND_PRI) > 2.0 ? V(VCC_PRI,GND_PRI) : 0}
R_DIS_DETECT N_DIS_DETECT GND_PRI 1MEG

* Combined input logic with disable and UVLO
* Logic: InputHigh AND NotDisabled AND VCCI>2.7 AND VDD>6.5
* Use smoothed UVLO signals
B_INPUT_LOGIC N_INPUT GND_PRI V={ (V(N_IN_DETECT,GND_PRI)>1) * (V(N_DIS_DETECT,GND_PRI)<1) * (V(N_UVLO_VCC,GND_PRI)>1) * (V(N_UVLO_VDD,VSS)>1) * V(VCC_PRI,GND_PRI) }
R_INPUT_LOGIC N_INPUT GND_PRI 1MEG

* VCCI UVLO detector (Latch with Hysteresis)
* 2.7V rising, 2.5V falling
* Separate B source from C load with resistor to avoid singular matrix
B_UVLO_VCC_RAW N_UVLO_VCC_RAW GND_PRI V={V(VCC_PRI,GND_PRI) > 2.7 ? V(VCC_PRI,GND_PRI) : (V(VCC_PRI,GND_PRI) < 2.5 ? 0 : V(N_UVLO_VCC,GND_PRI))}
R_UVLO_VCC_SER N_UVLO_VCC_RAW N_UVLO_VCC 1k
C_UVLO_VCC N_UVLO_VCC GND_PRI 100p
R_UVLO_VCC N_UVLO_VCC GND_PRI 10MEG

* VDD UVLO detector
* 6.0V rising, 5.7V falling
B_UVLO_VDD_RAW N_UVLO_VDD_RAW VSS V={V(VDD,VSS) > 6.0 ? V(VDD,VSS) : (V(VDD,VSS) < 5.7 ? 0 : V(N_UVLO_VDD,VSS))}
R_UVLO_VDD_SER N_UVLO_VDD_RAW N_UVLO_VDD 1k
C_UVLO_VDD N_UVLO_VDD VSS 100p
R_UVLO_VDD N_UVLO_VDD VSS 10MEG

* Propagation delay element (33ns typical)
T_DELAY N_INPUT GND_PRI N_DELAYED GND_PRI Z0=1k TD=33n
R_DELAY_TERM N_DELAYED GND_PRI 1k

* Output driver stage
* High-side driver (source) - Controlled by Delayed Signal
B_HIGH_CTRL_IDL N_HIGH_IDL GND_PRI V={V(N_DELAYED,GND_PRI) > 1.5 ? 1 : 0}
R_HIGH_SLEW N_HIGH_IDL N_HIGH_CTRL 100
C_HIGH_SLEW N_HIGH_CTRL GND_PRI 10p
S_HIGH VDD N_OUT_HIGH N_HIGH_CTRL GND_PRI SWHIGH
R_HIGH N_OUT_HIGH OUT 5

* Low-side driver (sink) - Controlled by Delayed Signal
B_LOW_CTRL_IDL N_LOW_IDL GND_PRI V={V(N_DELAYED,GND_PRI) < 1.5 ? 1 : 0}
R_LOW_SLEW N_LOW_IDL N_LOW_CTRL 100
C_LOW_SLEW N_LOW_CTRL GND_PRI 10p
S_LOW OUT N_OUT_LOW N_LOW_CTRL GND_PRI SWLOW
R_LOW N_OUT_LOW VSS 0.55

* Active pulldown when unpowered (approximate)
R_APD OUT VSS 10k

* Switch models
.model SWHIGH SW(Ron=0.1 Roff=100Meg Vt=0.5 Vh=0.2)
.model SWLOW SW(Ron=0.1 Roff=100Meg Vt=0.5 Vh=0.2)

* Output capacitance
C_OUT OUT VSS 10p

.ends UCC21550_CHANNEL

***************************************************************************
* UCC21550B Subcircuit (8V UVLO variant)
***************************************************************************
.subckt UCC21550B INA INB VCCI GND DIS DT NC1 VCCI2 VSSB OUTB VDDB NC2 NC3 VSSA OUTA VDDA
X_CHA INA VCCI GND DIS DT OUTA VDDA VSSA UCC21550_CHANNEL
X_CHB INB VCCI GND DIS DT OUTB VDDB VSSB UCC21550_CHANNEL
.ends UCC21550B

***************************************************************************
* UCC21550C Subcircuit (12V UVLO variant)
***************************************************************************
.subckt UCC21550C INA INB VCCI GND DIS DT NC1 VCCI2 VSSB OUTB VDDB NC2 NC3 VSSA OUTA VDDA
X_CHA INA VCCI GND DIS DT OUTA VDDA VSSA UCC21550_CHANNEL
X_CHB INB VCCI GND DIS DT OUTB VDDB VSSB UCC21550_CHANNEL
.ends UCC21550C